Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-1.4248863658700002
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[O:10][H:11],3.77125411407
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-0.0661572624499
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-0.923889813836
[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-3.06483664401
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.46023161818
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:13],3.09242554915
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],3.13785866473
[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.94967131691
[C:5]([H:6])[H:7].[O:1]=[C:2]([H:3])[C:4][C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-8.23127966465
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5],4.89433133253
[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.29908819119
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.839720869190001
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.48374872
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:1],7.47305525834
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3](=[O:4])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:5],3.49668556566
[H:1][C:2](=[C:3][H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-0.90577430193
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:13][H:14].[H:12],1.8133719296
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:5]#[C:3][H:4],1.56796832861
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7][H:8])=[C:9][H:10]>>[C:7][H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:9][H:10],3.0170996151
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7].[H:8]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7][H:8],-5.62387305721
[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][H:7],1.32059161873
[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:3](\[H:4])(=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2],2.76349822769
[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])=[C:8]=[O:9]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10],-1.83711883891
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3][O:8][C:9]([H:10])([H:11])[H:12],4.07051580741
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.23013457171
[C:4]([H:5])#[C:6][O:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-0.829179814049
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8].[H:1],3.58817804809
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](#[C:4][O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],3.60122585176
